US08183246B2
3-{[5-(4-Methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]oxy}propan-1-ol
Put 1.13 g (14.85 mmol) 1,3-propanediol in 30 ml THF. Add 833 mg (7.42 mmol) potassium tert.-butylate and stir for 15 min at RT. Then cool to 0° C. and add a solution of 1.0 g (2.97 mmol) 4-chloro-5-(4-methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidine in 15 ml THF dropwise over a time of 30 min. Then leave to return to RT and stir for a further 2 h. Dilute with dichloromethane and water, acidify with 10% citric acid solution and separate the phases. Extract the aqueous phase once with dichloromethane. Combine the organic phases and wash once with satd. sodium chloride solution. Dry over magnesium sulphate, concentrate by evaporation and purify the residue by chromatography on silica gel (solvent: cyclohexane/ethyl acetate 7:3→1:1). 772 mg (69.0% of theor.) of the target compound is obtained.

reactant | 1,3-propanediol | 14.85 mmol, 1.13 g | C(CCO)O | C3H8O2
reactant | 4-chloro-5-(4-methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidine | 2.97 mmol, 1.0 g | ClC=1C2=C(N=CN1)OC(=C2C2=CC=C(C=C2)OC)C2=CC=CC=C2 | C19H13ClN2O2
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 3-{[5-(4-Methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]oxy}propan-1-ol | COC1=CC=C(C=C1)C1=C(OC=2N=CN=C(C21)OCCCO)C2=CC=CC=C2 | C22H20N2O4
